US07112698B2
(E)-1-(4-propoxyphenyl)-3-(2,3,4-trimethoxyphenyl)prop-1-en-3-one (DMU-420)
To a stirred solution of 4-propoxybenzaldehyde (0.781 g, 4.8 mmol) and 2,3,4-trimethoxyacetophenone (1.0 g, 4.8 mmol) in methanol (30 ml) was added a 50% w/v solution of aqueous NaOH (7.60 ml, 0.096 mol). The reaction mixture was stirred at room temperature for 24 h. A pale yellow precipitate was isolated and dried under vacuum over night. 1.693 g (86%) of a pale yellow powder was isolated. 1H-NMR (CDCl3) δ 7.60 (d, 1H), 7.5 (m, 1H), 4.4 (d, 1H), 7.3 (d, 1H), 6.8 (m, 1H), 6.7 (d, 1H), 3.9 (t, 2H), 3.9 (s, 3H), 3.9 (s, 3H), 3.9 (s, 3H), 1.75 (m, 2H), 1.0 (t, 3H). 13C-NMR (CDCl3) δ 191.0. Mass Spectrum m/e (M+1) 357. Anal. Calcd. for C21H24O5.H2O: C, 67.44; H, 7.01. Found: C, 67.49; H, 6.93.

reactant | 4-propoxybenzaldehyde | 4.8 mmol, 0.781 g | C(CC)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | 2,3,4-trimethoxyacetophenone | 4.8 mmol, 1.0 g | CC(=O)C1=C(C(=C(C=C1)OC)OC)OC | C11H14O4
reactant | NaOH | 0.096 mol, 7.60 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (E)-1-(4-propoxyphenyl)-3-(2,3,4-trimethoxyphenyl)prop-1-en-3-one | 1.693 g, 86% | C(CC)OC1=CC=C(C=C1)\C=C\C(=O)C1=C(C(=C(C=C1)OC)OC)OC | C21H24O5
